US06498170B2
N-[2-Benzyloxy-5-(2-amino-(1R)-1-hydroxy-ethyl)-phenyl]-methanesulfonamide:
A mixture of N-{2-benzyloxy-5-(2-iodo-(1R)-1-[(triethylsilyl)oxy]-ethyl)-phenyl}-methanesulfonamide (EP 0 659 737) (4.48 g, 8 mmol) and sodium azide (0.65 g, 10 mmol) in 100 mL of hexamethylphosphoramide was stirred at 60° C. overnight. After cooling to room temperature the mixture was diluted with diethyl ether, washed with water, dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in 200 mL of THF/H2O (10:1) and triphenylphosphine (2.62 g, 10 mmol) was added. After overnight stirring at room temperature, the solvents were removed and the residue was partitioned between ethyl acetate and water. The organic layers were combined and dried over MgSO4 and concentrated. The residue was redissolved in 100 mL of THF and tetrabutylammonium fluoride (10 mL, 1 M solution in THF) was added. The reaction was stirred for 2 hours then the solvent was removed in vacuo. The residue was purified by column chromatography on silica gel using triethylamine-methanol-methylene chloride (1:1:3) to give the title compound as a white solid; MS (ES) m/z: 337.4 (M++H).

reactant | N-{2-benzyloxy-5-(2-iodo-(1R)-1-[(triethylsilyl)oxy]-ethyl)-phenyl}-methanesulfonamide | 8 mmol, 4.48 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C22H32INO4SSi
reactant | sodium azide | 10 mmol, 0.65 g | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 10 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | hexamethylphosphoramide | 100 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[2-Benzyloxy-5-(2-amino-(1R)-1-hydroxy-ethyl)-phenyl]-methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN)O)NS(=O)(=O)C | C16H20N2O4S
